US05190953
1-Azabicyclo[3.3.1]nonane-5-carboxamide
A solution of 1-azabicyclo[3.3.1]nonane-5-carboxylic acid methyl ester (1.83 g, 10 mmol) in ammonia (50 mL) and methanol (20 mL) was sealed in a bomb and heated at 120°-130° C. for 36 hours (gas chromatography indicated that the reaction was incomplete). Three drops of 25% sodium methoxide/methanol were added, and the mixture was heated at 130° C. for 21 hours and at 150° C. for 72 hours, at which time the reaction was essentially complete. The solution was concentrated in vacuo and the residue was partitioned between 1.25 N sodium carbonate (50 mL) and methylene chloride (75 mL). The organic layer was separated and the aqueous solution was extracted with methylene chloride (2×40 mL). The combined organic layers were dried (Na2SO4), concentrated in vacuo, and recrystallized from acetonitrile to afford 0.64 g (38%) of pale brown solid: mp 172.5°-175.0° C.

reactant | 1-azabicyclo[3.3.1]nonane-5-carboxylic acid methyl ester | 10 mmol, 1.83 g | COC(=O)C12CCCN(CCC1)C2 | C10H17NO2
reactant | ammonia | 50 mL | N | H3N
solvent | methanol | 20 mL | CO | CH4O
catalyst | sodium methoxide methanol | Three drops | C[O-].[Na+].CO
product | 1-Azabicyclo[3.3.1]nonane-5-carboxamide | 0.64 g, 38% | N12CCCC(CCC1)(C2)C(=O)N | C9H16N2O
